US08012976B2
Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-methoxyphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of 4-methoxybenzaldehyde (231 mg, 1.7 mmol) and (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one (500 mg, 1.7 mmol) in ethyl propionate (30 mL) was added sodium methanolate (120 mg, 5.2 mmol) and the mixture was stirred at 25° C. for 4 h. Then the resulting mixture was added water (10 mL) and evaporated under reduced pressure, extracted with EtOAc (4×100 ml), and concentrated to dryness. A crude product was obtained (250 mg) and was used for next step reaction without further purification. LC-MS (ESI) m/z: 459 (M+1)+.

reactant | 4-methoxybenzaldehyde | 1.7 mmol, 231 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one | 1.7 mmol, 500 mg | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C18H18N2O2
reactant | sodium methanolate | 5.2 mmol, 120 mg | C[O-].[Na+]
reactant | water | 10 mL | O | H2O
reactant | ethyl propionate | 30 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-methoxyphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)OC)=O)C(=O)OCC | C28H30N2O4
